US08895558B2
Step 2: tert-butyl 4-(quinolin-8-yl)piperazine-1-carboxylate
t-Butyl piperazine-1-carboxylate (8.6 g, 46 mmol) and quinolin-8-yl trifluoromethanesulfonate (11 g, 39.6 mmol) were added to a solution of Cs2CO3 (18 g, 55 mmol), BINAP (1.07 g) and Pd(OAc)2 (367 mg) in THF (100 ml). The reaction mixture was refluxed for 1 day and then cooled down to room temperature. The resulting solution was diluted with Et2O (100 ml) and then filtered with Celite. The organic solution was evaporated under reduced pressure, and the residue was purified with normal preparative column to give rise to desired compound (9.3 g, 74% yield) as light yellow solid.

reactant | t-Butyl piperazine-1-carboxylate | 46 mmol, 8.6 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | quinolin-8-yl trifluoromethanesulfonate | 39.6 mmol, 11 g | FC(S(=O)(=O)OC=1C=CC=C2C=CC=NC12)(F)F | C10H6F3NO3S
reactant | Cs2CO3 | 55 mmol, 18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Et2O | 100 ml | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 367 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 1.07 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | tert-butyl 4-(quinolin-8-yl)piperazine-1-carboxylate | 9.3 g, 74% yield | N1=CC=CC2=CC=CC(=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
